US06103446
1,2,3,4 tetraphenyl- benzo[4,5]imidazo[2,1 -a]isoindol-11-one-7-carboxylic acid (A1, inclusive the corresponding 8-isomer)
Into a reaction vessel equipped with a condenser, light nitrogen purge and magnetic stirrer, 10 g (0.022 mol) of tetraphenylphthalic anhydride and 3.35 g (0.022 mol) of 3,4 diaminobenzoic acid are added, along with 100 ml of acetic acid. The gray colored reaction mixture is heated to reflux temperature. After several hours the reaction begins to take-on a dark yellow color. The reaction mixture is then left for a further 72 hours at slightly below reflux temperature (105° C.).

reactant | tetraphenylphthalic anhydride | 0.022 mol, 10 g | C1(=CC=CC=C1)C=1C(=C(C(=C2C1C(=O)OC2=O)C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C32H20O3
reactant | 3,4 diaminobenzoic acid | 0.022 mol, 3.35 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4 tetraphenyl- benzo[4,5]imidazo[2,1 -a]isoindol-11-one-7-carboxylic acid | C1(=CC=CC=C1)C1=C2C(N3C(C2=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=NC1=C3C=CC(=C1)C(=O)O)=O | C39H24N2O3
